US07982071B2
To a −78° C. solution of LDA (10 mL of a 2M solution in heptane/THF/ethylbenzene, 20.09 mmol) in THF (30 mL) was added acetonitrile (0.97 mL, 18.41 mmol) dropwise over ca. 2 min. After stirring for 15 min, a solution of 3-(cycloheptylmethoxy)benzaldehyde (3.89 g, 16.74 mmol) in THF (20 mL) was added. The reaction was allowed to warm to 0° C. over 2 h then quenched with the addition of saturated aqueous NH4Cl (30 mL). The mixture was extracted with EtOAc twice. The combined organics were dried over Na2SO4 and concentrated under reduced pressure. Purification by flash chromatography (20% EtOAc-hexanes) gave 3-(3-(cycloheptylmethoxy)phenyl)-3-hydroxypropanenitrile as a colorless oil. Yield (2.102 g, 46%): 1H NMR (400 MHz, DMSO-d6) δ 7.22 (t, J=8.0 Hz, 1H), 6.95 (d, J=2.4 Hz, 1H), 6.93 (d, J=8.0 Hz, 1H), 6.81 (ddd, J=8.4, 2.4, 0.8 Hz, 1H), 5.89 (d, J=4.4 Hz, 1H), 4.83 (dt, J=6.4, 4.8 Hz, 1H), 3.71 (d, J=6.8 Hz, 2H), 2.86 (dd, J=16.8, 5.0 Hz, 1H), 2.78 (dd, J=16.4, 6.6 Hz, 1H), 1.86-1.92 (m, 1H), 1.76-1.82 (m, 2H), 1.61-1.67 (m, 2H), 1.37-1.59 (m, 6H), 1.20-1.30 (m, 2H).*

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | acetonitrile | 18.41 mmol, 0.97 mL | C(C)#N | C2H3N
reactant | 3-(cycloheptylmethoxy)benzaldehyde | 16.74 mmol, 3.89 g | C1(CCCCCC1)COC=1C=C(C=O)C=CC1 | C15H20O2
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-(cycloheptylmethoxy)phenyl)-3-hydroxypropanenitrile | C1(CCCCCC1)COC=1C=C(C=CC1)C(CC#N)O | C17H23NO2
